US07501411B2
Step 2: 7-bromobenzo[b]thiophene
1-Bromo-2-(2-ethoxyvinylsulfanyl)benzene is dissolved in chlorobenzene (50 mL) and the solution is heated to 70° C. PPA (10.5 mL) is then added carefully and the biphasic mixture is heated at 150° C. overnight. The resulting dark syrup is allowed to cool down and the supernatant solvent removed by pipette. Chlorobenzene (15 mL) is added to the residue and heated to 150° C. for 30 min. The solvent is removed again and the residue washed with small amounts of dichloromethane until the washings are clear. The organic fractions are combined and filtered through celite to afford a clear yellow solution. Concentration under vacuum followed by LC using cyclohexane as the eluent provided the title compound as a viscous colourless oil (1.21 g, 35%).

reactant | 1-Bromo-2-(2-ethoxyvinylsulfanyl)benzene | BrC1=C(C=CC=C1)SC=COCC | C10H11BrOS
solvent | chlorobenzene | 50 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 7-bromobenzo[b]thiophene | 1.21 g, 35% | BrC1=CC=CC2=C1SC=C2 | C8H5BrS
